US04282242
Methyl 5-(3-Chlorophenylthio)pyrrole-3-carboxylate
By the procedure of Example 14, methyl pyrrole-3-carboxylate (2.5 g., 20 mmoles) was reacted with m-chlorobenzenesulfenyl chloride to yield crude product as an oil (5.0 g.). The crude was chromatographed on 250 g. of silica gel, with 100 ml. fractions of the methylene chloride eluant collected. Fractions 17 to 30 were combined and evaporated to yield purified methyl 5-(3-chlorophenylthio)pyrrole-3-carboxylate (1.8 g., m.p. 90°-95° C., m/e 267) which crystallized on standing.

reactant | methyl pyrrole-3-carboxylate | 20 mmoles, 2.5 g | N1C=C(C=C1)C(=O)OC | C6H7NO2
reactant | m-chlorobenzenesulfenyl chloride | ClC=1C=C(C=CC1)SCl | C6H4Cl2S
product | Methyl 5-(3-Chlorophenylthio)pyrrole-3-carboxylate | 5.0 g | ClC=1C=C(C=CC1)SC1=CC(=CN1)C(=O)OC | C12H10ClNO2S
